US06713471B1
8-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-6-(trifluoromethyl)-1,2,7,8,9,10-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole
1-(4-Fluorophenyl)-4-(6-(trifluoromethyl)-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indol-8(7H)-yl)-1-butanone (70 mg, 0.15 mmol) and ethylene glycol (10.4 mg, 0.17 mmol) were mixed together in anhydrous toluene (5 mL) in a round bottom flask equipped with a Dean-Stark apparatus and 3 Å molecular sieves. A few crystals of p-TsOH were added and reaction was heated to reflux for 5 hours. The reaction mixture was concentrated under reduced pressure and then extracted with dichloromethane (2×25 mL), washed with saturated sodium carbonate (1×15 mL) and brine (1×15 mL), dried (sodium sulfate) and concentrated. Product was purified by preperative thin layer chromatography on silica gel, and eluted with 10% MeOH in dichloromethane to give the title compound. 1H NMR (CDCl3, 300 MHz): δ8.00-7.95 (m, 2H), 7.10-6.92 (m, 4H), 4.30-4.26 (m, 2H), 4.03-4.00 (m, 1H), 3.79-3.71 (m, 3H), 3.28-3.23 (m, 2H), 2.92-2.82 (m, 5H), 2.73 (t, 2H, J=7.1 Hz), 2.60 (t, 1H, J=7.5 Hz), 2.10-2.05 (m, 2H) ppm.

reactant | 1-(4-Fluorophenyl)-4-(6-(trifluoromethyl)-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indol-8(7H)-yl)-1-butanone | 0.15 mmol, 70 mg | FC1=CC=C(C=C1)C(CCCN1CC2=C(N3C4=C(C=CC(=C24)C(F)(F)F)OCC3)CC1)=O | C24H22F4N2O2
reactant | ethylene glycol | 0.17 mmol, 10.4 mg | C(CO)O | C2H6O2
reactant | p-TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 8-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-6-(trifluoromethyl)-1,2,7,8,9,10-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole | FC1=CC=C(C=C1)C1(OCCO1)CCCN1CC2=C(N3C4=C(C=CC(=C24)C(F)(F)F)SCC3)CC1 | C26H26F4N2O2S
